US05185370
2-[(4-Cyanophenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione
The procedure described in Example 19 was repeated by using 3.78 g 4-cyanobenzaldehyde and 2.23 g 1,3-dicyclopropyl-1,3-propanedione. Yield 1.5 g, mp 100°-102° C.

reactant | 4-cyanobenzaldehyde | 3.78 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 1,3-dicyclopropyl-1,3-propanedione | 2.23 g | C1(CC1)C(CC(=O)C1CC1)=O | C9H12O2
product | 2-[(4-Cyanophenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione | C(#N)C1=CC=C(C=C1)C=C(C(=O)C1CC1)C(=O)C1CC1 | C17H15NO2
